US04642308
The procedure is similar to that described in Example 1, but starting with cyclopropanecarboxylic acid (4.8 g), N,N'-carbonyldiimidazole (9.07 g) and 2-amino-7-phenoxy-1,8-naphthyridine (10 g). The product produced by precipitation in water (11.2 g; m.p. approximately 170° C.) is dissolved in boiling ethanol (200 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethanol (2×10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-Phenoxy-1,8-naphthyridin-2-yl)cyclopropanecarboxamide (6.4 g) is produced, m.p. 190° C.

reactant | cyclopropanecarboxylic acid | 4.8 g | C1(CC1)C(=O)O | C4H6O2
reactant | 2-amino-7-phenoxy-1,8-naphthyridine | 10 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=CC=C1 | C14H11N3O
reactant | ethanol | 200 cc | C(C)O | C2H6O
solvent | water | 11.2 g | O | H2O
product | N-(7-Phenoxy-1,8-naphthyridin-2-yl)cyclopropanecarboxamide | 6.4 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(=O)C1CC1 | C18H15N3O2
